US05733850
(±)-(3R,4S)-4-Acetoxy-3-(2-chloropropionyloxy)tetrahydrofuran
12.4 g of (±)-2-chloropropionyl chloride were added dropwise at 0°-5° C. to an ice-cooled mixture of 15.0 g of (±)-(3R,4S)-3-hydroxy-4-methylcarbonyloxytetrahydrofuran, 8.1 g of anhydrous pyridine and 200 ml of anhydrous dichloromethane. After addition was complete, the reaction mixture was stirred at 23° C. for a further 4 hours, after which it was poured onto 400 ml of water. The organic phase was then separated off, washed twice with 50 ml of water each time, dried over sodium sulfate and finally concentrated. The crude product was purified by distillation at a pressure of 10 mbar.

reactant | (±)-2-chloropropionyl chloride | 12.4 g | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | (±)-(3R,4S)-3-hydroxy-4-methylcarbonyloxytetrahydrofuran | 15.0 g | O[C@@H]1COC[C@@H]1OC(=O)C | C6H10O4
reactant | pyridine | 8.1 g | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | 400 ml | O | H2O
product | (±)-(3R,4S)-4-Acetoxy-3-(2-chloropropionyloxy)tetrahydrofuran | C(C)(=O)O[C@@H]1[C@@H](COC1)OC(C(C)Cl)=O | C9H13ClO5
